US07816558B2
1.32 g of methyl 2-[4′-(benzyloxy)-2,3′-dicyanobiphenyl-4-yl]isonicotinate, which had been obtained in the same manner as in Example 1(1) using 4-(benzyloxy)-3-cyanophenyl]boric acid and methyl 2-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)isonicotinate, was dissolved in a mixture of 50 ml of THF and 50 ml of methanol, and 0.5 g of palladium-carbon was added, followed by stirring in a hydrogen atmosphere at room temperature for 12 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to obtain 0.5 g of methyl 2-(2,3′-dicyano-4′-hydroxybiphenyl-4-yl)isonicotinate.

reactant | methyl 2-[4′-(benzyloxy)-2,3′-dicyanobiphenyl-4-yl]isonicotinate | 1.32 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=C(C=C(C=C1)C=1C=C(C(=O)OC)C=CN1)C#N)C#N | C28H19N3O3
reactant | boric acid | B(O)(O)O | BH3O3
reactant | methyl 2-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)isonicotinate | C(#N)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)C=1C=C(C(=O)OC)C=CN1 | C15H9F3N2O5S
reactant | hydrogen | [H][H] | H2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | methyl 2-(2,3′-dicyano-4′-hydroxybiphenyl-4-yl)isonicotinate | 0.5 g | C(#N)C1=C(C=CC(=C1)C=1C=C(C(=O)OC)C=CN1)C1=CC(=C(C=C1)O)C#N | C21H13N3O3
